US08895547B2
(5-Biphenyl-4-yl-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)-[(S)-1-(2-fluorophenyl)ethyl]amine
Under inert gas, 5.56 ml of a 0.5 N zinc chloride solution in THF were cooled to −75° C., and 1.03 ml of a 1.8 N phenyllithium solution in dibutyl ether was added dropwise. The reaction solution was allowed to come to room temperature and stirred for 30 minutes. Then this solution was added to a solution of 87 mg of [5-(4-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-1-(2-fluorophenyl)ethyl]amine and 8 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium in 3 ml of THF. After stirring at 60° C. for 75 minutes, the conversion was checked by LCMS. Since it was incomplete, the reaction mixture was stirred at 60° C. for a further 2.5 hours. Since, by LCMS, no further conversion had taken place, another 30% of the above-described amount of the self-prepared solution of phenyllithium and zinc chloride was added, and the mixture was stirred at 60° C. for a further 60 minutes. Since, by LCMS, there was no further conversion, the reaction solution was concentrated by rotary evaporation. The residue was admixed with dichloromethane and water, and the organic phase was dried over MgSO4 and concentrated by rotary evaporation. The residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation, and the crude product was purified further in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined and lyophilized. This gave the product (29.1 mg) with a molecular weight of 466.6 g/mol (C26H27FN2O3S); MS (ESI): m/e=467 (M+H+).

reactant | phenyllithium | 1.8 N | C1(=CC=CC=C1)[Li]
reactant | [5-(4-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-1-(2-fluorophenyl)ethyl]amine | 87 mg | BrC1=CC=C(C=C1)C1(S(N=C(OC1(C)C)N[C@@H](C)C1=C(C=CC=C1)F)(=O)=O)C | C20H22BrFN2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | dibutyl ether | C(CCC)OCCCC | C8H18O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.5 N | [Cl-].[Zn+2].[Cl-]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (5-Biphenyl-4-yl-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)-[(S)-1-(2-fluorophenyl)ethyl]amine | 29.1 mg | C1(=CC=C(C=C1)C1(S(N=C(OC1(C)C)N[C@@H](C)C1=C(C=CC=C1)F)(=O)=O)C)C1=CC=CC=C1 | C26H27FN2O3S
